US09102671B2
To a solution of (2R,4R)-tert-butyl 2-(3-fluorophenyl)-4-hydroxypyrrolidine-1-carboxylate (I-4) (890 mg, 3.14 mmol) in DCM (5 mL) at room temperature was added TFA (5 mL). The mixture was stirred at room temperature for 2 hours then concentrated to dryness. The crude was diluted with EtOAc, washed with aqueous NaHCO3 and brine, dried over sodium sulfate, filtered and concentrated to yield (3R,5R)-5-(3-fluorophenyl)pyrrolidin-3-ol (I-32), which was used without purification.

reactant | (2R,4R)-tert-butyl 2-(3-fluorophenyl)-4-hydroxypyrrolidine-1-carboxylate | 3.14 mmol, 890 mg | FC=1C=C(C=CC1)[C@@H]1N(C[C@@H](C1)O)C(=O)OC(C)(C)C | C15H20FNO3
reactant | TFA | 5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | (3R,5R)-5-(3-fluorophenyl)pyrrolidin-3-ol | FC=1C=C(C=CC1)[C@H]1C[C@H](CN1)O | C10H12FNO
